US08022208B2
3-Bromo-1-methylpyridin-4(1H)-one hydrobromide (640 mg) was suspended in toluene (10 ml) and water (5 ml), and [4-(methoxycarbonyl)phenyl]boronic acid (642 mg), sodium carbonate (757 mg) and tetrakis(triphenylphosphine)palladium(0) (138 mg) were added, followed by stirring under heating in an oil bath at 100° C. for 3 hours. The reaction mixture was filtered through Celite, followed by extraction with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (FUJI SILYSIA CHEMICAL Ltd., the same shall apply hereinunder) (chloroform:methanol=90:10) to obtain methyl 4-(1-methyl-4-oxo-1,4-dihydropyridin-3-yl)benzoate (118 mg).

reactant | 3-Bromo-1-methylpyridin-4(1H)-one hydrobromide | 640 mg | Br.BrC1=CN(C=CC1=O)C
reactant | [4-(methoxycarbonyl)phenyl]boronic acid | 642 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 757 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 138 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(1-methyl-4-oxo-1,4-dihydropyridin-3-yl)benzoate | 118 mg | CN1C=C(C(C=C1)=O)C1=CC=C(C(=O)OC)C=C1 | C14H13NO3
